US04167576
B. 2-(2-Phenoxyphenyl) hexanenitrile
Into a three-necked 300 ml round-bottom flask are charged 7.4 g (0.15 mole) of sodium cyanide and 80 ml of dimethyl sulfoxide. To this slurry is added 30 g (0.13 mole) of 2-phenoxybenzyl chloride dropwise. Reaction temperature increases from 24° to 44° C. The reaction mixture is stirred for an additional 11/2 hours. To this reaction mixture is added 13.7 g (0.13 mole) of butyl chloride followed by dropwise addition of 34 g (0.4 mole) of 50% sodium hydroxide solution. After stirring for an additional 1/2 hour, reaction mixture is poured into 150 ml of water and extracted with hexane. The combined hexane extracts are washed with water and dried over MgSO4. Solvent is evaporated to give 32 g of a crude product. Material can be further purified by vacuum distillation (bp 149-60/0.25 mm).

reactant | sodium cyanide | 0.15 mole, 7.4 g | [C-]#N.[Na+]
reactant | 2-phenoxybenzyl chloride | 0.13 mole, 30 g | O(C1=CC=CC=C1)C1=C(CCl)C=CC=C1 | C13H11ClO
reactant | butyl chloride | 0.13 mole, 13.7 g | C(CCC)Cl | C4H9Cl
reactant | sodium hydroxide | 0.4 mole, 34 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 2-(2-Phenoxyphenyl) hexanenitrile | 32 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)C(C#N)CCCC | C18H19NO
